US09029391B2
2-Bromo-5-hydroxy-benzoic acid methyl ester
To a solution of compound methyl 2-bromo-5-methoxybenzoate (100 g, 410 mmol) in DCM (2000 mL) was added and BBr3 (1N, 150 mL) at −78° C. under N2 The mixture was stirred at 0° C. under N2 for 24 hr. The reaction was quenched with MeOH (500 mL), concentrated to dryness, diluted with H2O (50 mL), and extracted with ethyl acetate (800 mL*3), The organic phase was washed with saturated sodium bicarbonate solution 50 mL, dried over Na2SO4. After concentration, the crude product was purified by silica gel chromatography eluted with PE:EA=1:1 to give title product (80 g, 85% yield) as yellow oil. LCMS (10-80 AB—2MIN.M): Rt=0.820, purity=85%, M+1=231.

reactant | methyl 2-bromo-5-methoxybenzoate | 410 mmol, 100 g | BrC1=C(C(=O)OC)C=C(C=C1)OC | C9H9BrO3
reactant | BBr3 | 1N, 150 mL | B(Br)(Br)Br | BBr3
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DCM | 2000 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-5-hydroxy-benzoic acid methyl ester | 80 g, 85% yield | COC(C1=C(C=CC(=C1)O)Br)=O | C8H7BrO3
